US06020335
3-Pyridin-2-ylmethyl-3H-[1,3,4]thiadiazol-2-ylideneamine hydrochloride
A mixture of 2-chloromethylpyridine (1.75 g, 0.0137 M) and 2-amino-1,3,4-thiadiazole (1.09 g, 0.0108 M) in 20 mL ethyl alcohol was refluxed for 20 hours. The reaction mixture was cooled to room temperature and filtered. The precipitate was washed with ethyl acetate and dried to yield 0.680 g of the title compound. MP=187-189° C. 1H-NMR (DMSO-d6) δ 10.6 (br s, 1H), 9.0 (s, 1H), 8.5 (d, 1H), 7.9 (m, 1H), 7.48 (d, 1H), 7.38 (m, 1H), 5.7 (s, 2H). 13C-NMR (DMSO-d6) δ 167.7, 153.0, 149.3, 145.0, 137.4, 123.4, 122.4, 54.0. Mass spectrum: m/e=193 (p+1).

reactant | 2-chloromethylpyridine | 0.0137 M, 1.75 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | 2-amino-1,3,4-thiadiazole | 0.0108 M, 1.09 g | NC=1SC=NN1 | C2H3N3S
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | 3-Pyridin-2-ylmethyl-3H-[1,3,4]thiadiazol-2-ylideneamine hydrochloride | 0.680 g | Cl.N1=C(C=CC=C1)CN1C(SC=N1)=N | InChI=1S/C8H8N4S.ClH/c9-8-12(11-6-13-8)5-7-3-1-2-4-10-7;/h1-4,6,9H,5H2;1H
